US06939874B2
To a N2 purged sealed tube, 2,4-dichloropyrimidine (1.0 g, 6.7 mmol, 1.2 eq.) and 2-aminopyridine (0.53 g, 5.6 mmol, 1.0 eq.) were added followed by 7 mL of anhydrous IPA. To the resulting suspension DIEA (0.98 mL, 5.6 mmol, 1.0 eq.) was added. The reaction was heated to 90-100° C. and stirred for 12 h. The reaction mixture was cooled to RT and the solvent was removed. The crude mixture was further purified by column chromatography (0-20% EtOAc in hexanes) providing pure (2-chloro-pyrimidin-4-yl)-pyridin-2-yl-amine.

reactant | 2,4-dichloropyrimidine | 6.7 mmol, 1.0 g, 1.2 eq. | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 2-aminopyridine | 5.6 mmol, 0.53 g, 1.0 eq. | NC1=NC=CC=C1 | C5H6N2
reactant | DIEA | 5.6 mmol, 0.98 mL, 1.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | IPA | 7 mL | CC(C)O | C3H8O
product | (2-chloro-pyrimidin-4-yl)-pyridin-2-yl-amine | ClC1=NC=CC(=N1)NC1=NC=CC=C1 | C9H7ClN4
